US07375113B2
To a solution of 4-(2-{4-[(E)-3-carboxyprop-1-enyl]-phenyl}ethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy) -1H-pyrazolo[3,4-b]pyridine (0.19 g) in N,N-dimethyl-formamide (5 mL) were added (S)-2-amino-1-propanol (52 mg), 1-hydroxybenzotriazole (94 mg), 1-ethyl-3-(3-dimethylamino-propyl)carbodiimide hydrochloride (0.13 g) and triethylamine (0.03 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with a saturated aqueous sodium hydrogen carbonate solution, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=30/1) to give 4-[2-(4-((E)-3-[(S)-2-hydroxy-1-(methyl)ethylcarbamoyl]prop-1-enyl)phenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine (78 mg). The obtained material (60 mg) was dissolved in methanol (1.3 mL). To the solution was added 10% palladium-carbon powder (6 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give4-[2-(4-{3-[(S)-2-hydroxy-1-(methyl)-ethylcarbamoyl]propyl}phenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine (58 mg). This material was dissolved in methanol (1 mL). To the solution was added sodium methoxide (28% methanol solution, 0.03 mL), and the mixture was stirred at 50° C. overnight. To the reaction mixture was added acetic acid (0.07 mL), and the resulting mixture was concentrated under reduced pressure. The residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (26 mg).

reactant | 4-(2-{4-[(E)-3-carboxyprop-1-enyl]-phenyl}ethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy) -1H-pyrazolo[3,4-b]pyridine | 0.19 g | C(=O)(O)C/C=C/C1=CC=C(C=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C44H59N3O12
reactant | (S)-2-amino-1-propanol | 52 mg | N[C@H](CO)C | C3H9NO
reactant | 1-hydroxybenzotriazole | 94 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylamino-propyl)carbodiimide hydrochloride | 0.13 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethyl-formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.03 mL | C(C)N(CC)CC | C6H15N
product | 4-[2-(4-((E)-3-[(S)-2-hydroxy-1-(methyl)ethylcarbamoyl]prop-1-enyl)phenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine | 78 mg | OC[C@H](C)NC(=O)C/C=C/C1=CC=C(C=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C47H66N4O12
